US06432947B1
To 1,4-benzodioxane-6-carboxaldehyde (10.0 g, 60 mmol) in acetic acid (50 mL) was added nitromethane (6.3 mL, 1.9 eq.) and ammonium acetate (5.1 g, 1.1 eq.). After heating at 110° C. for 4 hours the mixture was cooled to ambient temperature, water (150 mL) was added, and the solid precipitate was collected by filtration. The solid was crystallized from methylene chloride-hexane (1:1, 45 mL) to obtain 7.6 g (61%) of 6-(2-nitroethenyl)-1,4-benzodioxane. To a portion of the solid (3.58 g) dissolved in MeOH-EtOH-AcOEt (1:1:1, 450 mL) was added 10% Pd/C (1.7 g) and concentrated HCl (3.3 mL, 2.3 eq). After shaking on a Parr hydrogenator at 45 psi for 5 hours, the catalyst was removed by filtration through Celite and washed with methanol. Evaporation of the filtrate gave 3.59 g (96%) of 1,4-benzodioxan-6-ethanamine, hydrochloride.

reactant | 1,4-benzodioxane-6-carboxaldehyde | 60 mmol, 10.0 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | nitromethane | 6.3 mL, 1.9 eq. | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 5.1 g, 1.1 eq. | C(C)(=O)[O-].[NH4+]
reactant | water | 150 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-(2-nitroethenyl)-1,4-benzodioxane | 7.6 g, 61% | [N+](=O)([O-])C=CC1=CC2=C(OCCO2)C=C1 | C10H9NO4
